US06348459B1
Preparation of N-[[(5S)-3-[3-fluoro-4-(tetrahydro-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]ethanethioamide
N-[[(5S)-3-[3-Fluoro-4-(tetrahydro-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (180 mg, 0.47 mmol), Lawesson's Reagent (310 mg, 0.77 mmol) and dioxane (10 ml) are heated under reflux for 1 hr. After cooling, the solvent is evaporated and the residue chromatographed over silica gel (40 g) eluting with 2-4% methanol-chloroform gives the title compound as a foam (173 mg, 92%). HRMS(FAB): calcd for m+H=402.0957; Found: 402.0954.

reactant | N-[[(5S)-3-[3-Fluoro-4-(tetrahydro-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.47 mmol, 180 mg | FC=1C=C(C=CC1C1CNS(CC1)(=O)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C16H20FN3O5S
reactant | Lawesson's Reagent | 0.77 mmol, 310 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-[[(5S)-3-[3-fluoro-4-(tetrahydro-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]ethanethioamide | 173 mg, 92% | FC=1C=C(C=CC1C1CNS(CC1)(=O)=O)N1C(O[C@H](C1)CNC(C)=S)=O | C16H20FN3O4S2
